US09328096B2
5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide
To a solution of 5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide (Preparation 15, 500 mg, 1.24 mmol) in DMSO (5 mL) was added K2CO3 (340 mg, 2.48 mmol) followed by H2O2 (50% by weight, aqueous solution, 1.69 mL, 24.9 mmol). The reaction was stirred at room temperature for 3 hours. The reaction was quenched by the addition of saturated aqueous KHSO4 solution (5 mL) followed by water (15 mL) and EtOAc (40 mL). The mixture was filtered and separated. The organic layer was washed with brine (40 mL), dried over MgSO4, and concentrated in vacuo. The residue was slurried in water and filtered to afford the title compound (457 mg, 88%).

reactant | 5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide | 1.24 mmol, 500 mg | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C1)Cl | C17H10BrClN4O
reactant | K2CO3 | 2.48 mmol, 340 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 24.9 mmol, 1.69 mL | OO | H2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 457 mg, 88% | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C1)Cl | C17H12BrClN4O2
